US05241027
Octadecyl parachlorobenzenesulfonate (11.5 g) was added to 3.96 g of 2,5-dimethylbenzoselenazole, and the mixture was heated at 130° C. for 6 hours. The crystals yielded by the reaction were washed with ether and then recrystallized from ethyl acetate. Drying of the crystals gave 7.42 g of 2,5-dimethyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate (yield 61%).

reactant | Octadecyl parachlorobenzenesulfonate | 11.5 g | ClC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCCC | C24H41ClO3S
reactant | 2,5-dimethylbenzoselenazole | 3.96 g | CC=1[Se]C2=C(N1)C=C(C=C2)C | C9H9NSe
product | 2,5-dimethyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate | 7.42 g, yield 61% | ClC1=CC=C(C=C1)S(=O)(=O)[O-].CC=1[Se]C2=C([N+]1CCCCCCCCCCCCCCCCCC)C=C(C=C2)C | InChI=1S/C27H46NSe.C6H5ClO3S/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-28-25(3)29-27-21-20-24(2)23-26(27)28;7-5-1-3-6(4-2-5)11(8,9)10/h20-21,23H,4-19,22H2,1-3H3;1-4H,(H,8,9,10)/q+1;/p-1
